US07338960B2
1-(6-Bromo-2-pyridinyl)-1-pentanone (Method A)
To a solution of 6-bromo-N-methoxy-N-methylpyridine-2-carboxamide (5.29 g, 21.58 mmol) in dry THF (120 mL) at −78° C. (dry ice/acetone bath) under nitrogen was added nBuMgCl (15.2 mL of a 20% wt solution in THF/toluene, 25.84 mmol) drop-wise over 15 minutes. The resulting yellow mixture was stirred at this temperature for 1 hour and was then allowed to warm to 0° C. (ice/water bath) slowly over 1.5 hours and then to rt over 18 hours. The yellow cloudy mixture was then added portion-wise to a stirred solution of aqueous HCl (2M, 200 mL) and the resulting mixture partitioned with EtOAc (200 mL) and the layers separated. The aqueous was re-extracted with EtOAc (200 mL) and the combined organic layer washed with brine (300 mL), dried (MgSO4) filtered and reduced to give a yellow/orange oil. Purification by Biotage™ chromatography (silica) eluting with cyclohexane:EtOAc (gradient 20:1 to 1:2) afforded the title compound (2.51 g).

reactant | 6-bromo-N-methoxy-N-methylpyridine-2-carboxamide | 21.58 mmol, 5.29 g | BrC1=CC=CC(=N1)C(=O)N(C)OC | C8H9BrN2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | nBuMgCl | C(CCC)[Mg]Cl
reactant | HCl | 2M, 200 mL | Cl | ClH
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF toluene | C1CCOC1.C1(=CC=CC=C1)C
product | 1-(6-Bromo-2-pyridinyl)-1-pentanone | 2.51 g | BrC1=CC=CC(=N1)C(CCCC)=O | C10H12BrNO
